US04990536
(ii) 19-Guanidino-11-hydroxy-4,9,12-triazanonadecane-1,10,13-trione hydrate dihydrochloride:
1.32 g (1.70 mmol) of 19-[2,3-bis(t-butoxycarbonyl)guanidino]-11-t-butyldimethylsilyloxy-1,1-diethoxy-4,9,12-triazanonadecane-10,13-dione was dissolved in 1 ml of methylene chloride and 5 ml of trifluoroacetic acid was added dropwise thereto under ice-cooling. After reacting at room temperature for 2.5 hours, the solvent was distilled off under reduced pressure. The residue was dissolved in 100 ml of distilled water and the pH value of the obtained solution was adjusted to 4.5 with 1N NaOH. The aqueous solution thus obtained was adsorbed on 120 ml of CM-Sephadex® C-25 (Na) and subjected to gradient elution between 500 ml of distilled water and 500 ml of 0.5M NaCl. Fractions containing the aimed compound were combined, adsorbed on 20 ml of granular Shirasagitan® KLH-250 and subjected to gradient elution between 500 ml of distilled water and a 50% aqueous solution of acetonitrile. Fractions positive to Sakaguchi's reagent were combined and concentrated under reduced pressure to thereby reduce the volume to one-tenth of the original. Some portion of the concentrate was collected and determined. Thus it was found that the concentrate contained 101 mg of the aimed compound (yield: 12.9%).

reactant | 19-[2,3-bis(t-butoxycarbonyl)guanidino]-11-t-butyldimethylsilyloxy-1,1-diethoxy-4,9,12-triazanonadecane-10,13-dione | 1.70 mmol, 1.32 g | C(C)(C)(C)OC(=O)N=C(NCCCCCCC(NC(C(NCCCCNCCC(OCC)OCC)=O)O[Si](C)(C)C(C)(C)C)=O)NC(=O)OC(C)(C)C | C37H74N6O9Si
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 19-Guanidino-11-hydroxy-4,9,12-triazanonadecane-1,10,13-trione hydrate dihydrochloride | 101 mg, yield: 12.9% | Cl.Cl.O.N(C(=N)N)CCCCCCC(NC(C(NCCCCNCCC=O)=O)O)=O | InChI=1S/C17H34N6O4.2ClH.H2O/c18-17(19)22-12-4-2-1-3-8-14(25)23-16(27)15(26)21-11-6-5-9-20-10-7-13-24;;;/h13,16,20,27H,1-12H2,(H,21,26)(H,23,25)(H4,18,19,22);2*1H;1H2
